### PR TITLE
Fixes 1992

### LINKED ISSUE #1992: Duplicate lemmas `integrable_locally_restrict` and `integrable_locally`
These lemmas appear to be exactly the same. Is this intended?

lebesgue_integral_theory/lebesgue_integral_differentiation.v
```
Lemma integrable_locally_restrict f (A : set R) : measurable A ->
  mu.-integrable A (EFin \o f) -> locally_integrable [set: R] (f \_ A).
```

ftc.v
```
Lemma integrable_locally f (A : set R) : measurable A ->
  mu.-integrable A (EFin \o f) -> locally_integrable [set: R] (f \_ A).
```

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

fixes #1992

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

~~- [ ] added corresponding documentation in the headers~~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/topology_theory/topology_structure.v [hunk 1]
```diff
@@ -972,12 +967,8 @@ Lemma closure_interior_idem : @idempotent_fun (set T) (closure \o interior).
 Proof. move=> ?; exact/closure_open_regclosed/open_interior. Qed.
 
 End closure_interior_lemmas.
-
-Lemma closureC_deprecated (T : topologicalType) (E : set T) :
-  ~` closure E = \bigcup_(x in [set U | open U /\ U `<=` ~` E]) x.
-Proof. by rewrite -interiorC interiorEbigcup. Qed.
-#[deprecated(since="mathcomp-analysis 1.7.0", note="use `interiorC` and `interiorEbigcup` instead")]
-Notation closureC := closureC_deprecated (only parsing).
+(*#[deprecated(since="mathcomp-analysis 1.17.0", note="renamed to `closureC`")]
```
Comment (t6s) [inline theories/topology_theory/topology_structure.v]: this should be uncommented and moved to line 898

**Review by t6s — COMMENTED** [review]
I am confused at a comment on closure_setC, but other parts look good.

File: theories/topology_theory/topology_structure.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/topology_theory/topology_structure.v]: Yes, it should be uncommented, but it should stay here because inside a section, a notation becomes local by default.

Comment (affeldt-aist) [reply theories/topology_theory/topology_structure.v]: Thanks for catching it!

**Review by t6s — APPROVED** [review]
